US08563723B2
4-Amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide
In a 25 mL microwave vial, 1.50 g 4-amino-N-(bis-methylsulfanyl-methylene)benzene-sulfonamide and 1.37 g 8-benzyl-2,3,8-triaza-spiro[4.5]dec-2-ene were suspended in 20 mL pyridine. The vial was capped and heated for 1 hour at 180° C. (6 bar) in the microwave. The reaction mixture was concentrated on silica. Purification with flash column chromatography (DCM→DCM/MeOH 99:1→DCM/MeOH 98:2) yielded 1.03 g (41%) of a beige amorph. 1H NMR (400 MHz, CDCl3) δ 1.57-1.72 (m, 2H), 1.78-1.92 (m, 2H), 2.17-2.32 (m, 5H), 2.66-2.81 (m, 2H), 3.51 (s, 2H), 4.04 (s, 2H), 4.28 (s, 2H), 6.64-6.71 (m, 2H), 6.98 (s, 1H), 7.20-7.37 (m, 5H), 7.72-7.79 (m, 2H).

reactant | 4-amino-N-(bis-methylsulfanyl-methylene)benzene-sulfonamide | 1.50 g | NC1=CC=C(C=C1)S(=O)(=O)N=C(SC)SC | C9H12N2O2S3
reactant | 8-benzyl-2,3,8-triaza-spiro[4.5]dec-2-ene | 1.37 g | C(C1=CC=CC=C1)N1CCC2(CN=NC2)CC1 | C14H19N3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-Amino-N-[(8-benzyl-2,3,8-triaza-spiro[4.5]dec-3-en-2-yl)-methylsulfanyl-methylene]-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)N=C(SC)N1CC2(C=N1)CCN(CC2)CC2=CC=CC=C2 | C22H27N5O2S2
